US07968583B2
Preparation of 3-pyrrolidin-1-ylmethyl-benzoyl chloride hydochloride
A suspension of 3-pyrrolidin-1-ylmethyl-benzoic acid hydrochloride (850 mg, 3.5 mmol) in dry tetrahydrofuran was treated with 2.55 mL of thionyl chloride (35 mmol, 10 eq) and stirred at room temperature for 2 hours. The solution thus obtained was then evaporated to dryness, the residue suspended in dry toluene, evaporated to dryness and dried under vacuum affording the title compound as pale brown solid (quantitative).

reactant | 3-pyrrolidin-1-ylmethyl-benzoic acid hydrochloride | 3.5 mmol, 850 mg | Cl.N1(CCCC1)CC=1C=C(C(=O)O)C=CC1
reactant | thionyl chloride | 35 mmol, 2.55 mL, 10 eq | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-pyrrolidin-1-ylmethyl-benzoyl chloride hydochloride | Cl.N1(CCCC1)CC=1C=C(C(=O)Cl)C=CC1 | InChI=1S/C12H14ClNO.ClH/c13-12(15)11-5-3-4-10(8-11)9-14-6-1-2-7-14;/h3-5,8H,1-2,6-7,9H2;1H
